* C:\Users\Tim\PycharmProjects\OSIM\Schaltungen Masterarbeit\Mixer\folded Gilbert\FoldedGilbert.asc
Q1 Q1C LOPlus N005 0 NPN
Q2 Q1C LOMinus N006 0 NPN
Q3 Q3C LOMinus N005 0 NPN
Q4 Q3C LOPlus N006 0 NPN
Q5 Q5C RFMinus N008 0 NPN
Q6 Q6C RFPlus N008 0 NPN
Q7 N008 N010 N012 0 NPN
Q8 N011 N011 N016 0 NPN
R1 N012 0 200
R2 N016 0 200
R3 VCC N011 510
V2 VCC 0 3.3
R10 N001 RFPlus 3485
R11 N003 0 4000
R12 N002 RFMinus 3485
R13 N004 0 4000
R14 0 SUB 200
V1 N007 N009 0
V4 LOPlus 0 1.9
V5 LOMinus 0 2.1
C3 RFPlus N007 8e-12
C4 RFMinus N009 8e-12
V3 Q3C Q1C 0
R4 VCC Q1C 313
R5 VCC Q3C 313
Q9 VCC VCC N001 0 NPN
Q10 VCC VCC N002 0 NPN
Q11 RFPlus RFPlus N003 0 NPN
Q12 RFMinus RFMinus N004 0 NPN
Q13 N006 N011 N015 0 NPN
Q14 N005 N011 N014 0 NPN
R6 N014 0 200
R7 N015 0 200
R15 VCC Q6C 1000
R16 VCC Q5C 1000
Q16 N010 N010 N013 0 NPN
R17 N013 0 200
R18 VCC N010 356
R19 0 SUB 200
C1 N005 Q6C 8e-12
C5 N006 Q5C 8e-12
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.bjt
.op
* V1:RIN=100;FUNC=SIN;F=180e9;DC=0;AC=0.1
* .V5:RIN=50;FUNC=PULSE;VON=0.075;VOFF=0;TR=0.01e-9;TF=0.01e-9;TON=0.1e-9;TOFF=0.1e-9
* .V4:RIN=50;FUNC=PULSE;VON=0;VOFF=0.075;TR=0.01e-9;TF=0.01e-9;TON=0.1e-9;TOFF=0.1e-9
* V3:RIN=100
* Q8:Nx=3
* Q13:Nx=3
* Q14:Nx=3
* Q4:Nx=3
* Q2:Nx=3
* Q3:Nx=3
* Q1:Nx=3
* Q16:Nx=3
* Q7:Nx=3
* Q5:Nx=3
* Q6:Nx=3
.backanno
.end
